US08110571B2
To a solution of 260 mg of 1-(6-hydroxy-1,3-benzothiazol-2-yl)-3-(2-morpholin-4-ylethyl)urea in 19.4 cm3 of aqueous 0.1N sodium hydroxide solution are added 209 mg of finely ground 2,6-dichlorobenzenesulfonyl chloride. After stirring for about 5 hours at a temperature in the region of 20° C., a further 70 mg of 2,6-dichlorobenzenesulfonyl chloride are added. After stirring for about 18 hours at the same temperature, the reaction mixture is concentrated under reduced pressure (13 kPa) to a volume of about 5 cm3. The suspension obtained is cooled for about one hour at a temperature in the region of 5° C. The solid is filtered off by suction, washed with three times 2 cm3 of water precooled to about 5° C., and dried under reduced pressure (13 kPa) over phosphorus pentoxide. 216 mg of 2-{[(2-morpholin-4-ylethyl)carbamoyl]amino}-1,3-benzothiazol-6-yl 2,6-dichlorobenzenesulfonate are thus obtained in the form of a cream-coloured powder, the characteristics of which are as follows:

reactant | 1-(6-hydroxy-1,3-benzothiazol-2-yl)-3-(2-morpholin-4-ylethyl)urea | 260 mg | OC1=CC2=C(N=C(S2)NC(=O)NCCN2CCOCC2)C=C1 | C14H18N4O3S
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
reactant | 2,6-dichlorobenzenesulfonyl chloride | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 2,6-dichlorobenzenesulfonyl chloride | 70 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2-{[(2-morpholin-4-ylethyl)carbamoyl]amino}-1,3-benzothiazol-6-yl 2,6-dichlorobenzenesulfonate | 216 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)OC1=CC2=C(N=C(S2)NC(NCCN2CCOCC2)=O)C=C1 | C20H20Cl2N4O5S2
